US07449476B2
Preparation of 8-Fluoro-5-phenyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester.
A mixture of 8-fluoro-1,3,4,5-tetrahydropyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (0.455 g, 1.57 mmol), CuI (0.012 g, 0.065 mmol) and K3PO4 (0.579 g, 2.73 mmol) was suspended in toluene (5 mL) under Ar. To this mixture was added iodobenzene (0.145 mL, 1.30 mmol) and N,N′-dimethylethylenediamine (0.028 mL, 0.26 mmol) and then the reaction vessel was quickly sealed and the mixture was heated with stirring at 150° C. (oil bath temperature) for 16 h. The cooled reaction mixture was subsequently filtered (Celite) and the filtrate was concentrated to dryness. The residue was purified by flash chromatography (SiO2/hexanes-ethyl acetate, 80:20 to 20:80) to give the title compound (0.267 g, 46%) as a white foam. 1H NMR (400 MHz, CDCl3) δ 7.51 (m, 2H), 7.41 (m, 1H), 7.33 (m, 2H), 7.15 (m, 2H), 6.87 (m, 1H), 4.66 (s, 2H), 3.77 (m, 2H), 2.70 (m, 2H), 1.51 (s, 9H); LCMS: m/e 367 (M+H)+.

reactant | 8-fluoro-1,3,4,5-tetrahydropyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 1.57 mmol, 0.455 g | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C=CC(=CC23)F)CC1 | C16H19FN2O2
reactant | K3PO4 | 2.73 mmol, 0.579 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | iodobenzene | 1.30 mmol, 0.145 mL | IC1=CC=CC=C1 | C6H5I
reactant | N,N′-dimethylethylenediamine | 0.26 mmol, 0.028 mL | CNCCNC | C4H12N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.065 mmol, 0.012 g | [Cu]I
product | 8-Fluoro-5-phenyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 0.267 g, 46% | C(C)(C)(C)OC(=O)N1CC2=C(N(C=3C=CC(=CC23)F)C2=CC=CC=C2)CC1 | C22H23FN2O2
